US04882330
1-Phenoxy-4-[4-(4-fluorophenyl)-1-piperazinyl]-2-butanol
This compound was prepared according to the procedure of Example 6. A mixture of 3.6 g (0.02 mole) of 1-(4-fluorophenyl)piperazine, 4.0 g (0.02 mole) of 4-chloro-1-phenoxy 2-butanol and 5.3 g (0.05 mole) of anhydrous sodium carbonate in 100 ml of 1-butanol gave 5.1 g (74%) of offwhite powder, m.p. 97°-99° C. Recrystallizing solvent used was isopropyl alcohol.

reactant | 1-(4-fluorophenyl)piperazine | 0.02 mole, 3.6 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | 4-chloro-1-phenoxy 2-butanol | 0.02 mole, 4.0 g | ClCCC(COC1=CC=CC=C1)O | C10H13ClO2
reactant | sodium carbonate | 0.05 mole, 5.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | 1-butanol | 100 ml | C(CCC)O | C4H10O
product | 1-Phenoxy-4-[4-(4-fluorophenyl)-1-piperazinyl]-2-butanol | O(C1=CC=CC=C1)CC(CCN1CCN(CC1)C1=CC=C(C=C1)F)O | C20H25FN2O2
